US06723722B1
A solution of 4-benzyloxycarbonyl-1-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydropyrazine (1.8 g) and 10% Pd/C (300 mg) in methanol (40 ml) was stirred at room temperature for 15 hours under a hydrogen atmosphere. The catalyst was filtered off and the reaction mixture was concentrated to obtain 1-(tert-butoxycarbonylamino)-2-piperazinone as a colorless oil.

reactant | 4-benzyloxycarbonyl-1-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydropyrazine | 1.8 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(C=C1)NC(=O)OC(C)(C)C)=O | C17H21N3O5
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 1-(tert-butoxycarbonylamino)-2-piperazinone | C(C)(C)(C)OC(=O)NN1C(CNCC1)=O | C9H17N3O3
